US08217031B2
3-[(Thiophen-2-ylmethyl)(formyl)amino]propanoic acid
Ethyl 3-[(thiophen-2-ylmethyl) (formyl)amino]-propionate (15.6 g) prepared in the step 2 was added to a solution of 5.4 g of potassium hydroxide in 100 mL of ethanol and stirred at room temperature for 2 hours. The solvent was evaporated from the reaction solution in vacuo, 50 mL of water was added to the residue and the mixture was subjected to extraction with diethyl ether. The resulting aqueous solution was slowly neutralized with a 1N aqueous solution of hydrochloric acid with stirring to adjust to pH 3 followed by extracting with diethyl ether. The organic layer was separated, washed with water and a saturated solution of sodium chloride successively and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom in vacuo to give 13.8 g of the objective compound as light yellow liquid.

reactant | Ethyl 3-[(thiophen-2-ylmethyl) (formyl)amino]-propionate | 15.6 g | S1C(=CC=C1)CN(CCC(=O)OCC)C=O | C11H15NO3S
reactant | potassium hydroxide | 5.4 g | [OH-].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-[(Thiophen-2-ylmethyl)(formyl)amino]propanoic acid | 13.8 g | S1C(=CC=C1)CN(CCC(=O)O)C=O | C9H11NO3S
